US09303023B2
1-[2-(3-Methoxy-phenyl)-ethyl]-1H-pyrazol-4-ylamine
To a solution of 1-(3-methoxyphenethyl)-4-nitro-1H-pyrazole (2.03 mmol) in EtOAc (2 mL, degassed) and EtOH (6 mL, degassed), PtO2 (45 mg, 0.20 mmol) was added and the reaction mixture was stirred at rt under a H2-atmosphere for 3 h. The mixture was diluted with EtOH, filtered over celite and the filter cake was rinsed with EtOH. The filtrate was concentrated to obtain the title compound as red oil. LC-MS conditions A: tR=0.52 min, [M+H]+=218.42.

reactant | 1-(3-methoxyphenethyl)-4-nitro-1H-pyrazole | 2.03 mmol | COC=1C=C(CCN2N=CC(=C2)[N+](=O)[O-])C=CC1 | C12H13N3O3
solvent | EtOAc | 2 mL | CCOC(=O)C | C4H8O2
solvent | EtOH | 6 mL | CCO | C2H6O
catalyst | PtO2 | 0.20 mmol, 45 mg | O=[Pt]=O
product | 1-[2-(3-Methoxy-phenyl)-ethyl]-1H-pyrazol-4-ylamine | COC=1C=C(C=CC1)CCN1N=CC(=C1)N | C12H15N3O
